US04116975
All trans-3,7-dimethyl-9-(3,4,5-trimethyl-2-thienyl)-2,4,6,8-nonatetraenoic acid ethyl ester
3.2 G. of (3,4,5-trimethyl-2-thenyl)triphenyl phosphonium bromide were suspended in 80 ml of butylene oxide and 1.5 g. of 3-methyl-7-formyl-octa-2,4,6-trienoic acid ethyl ester were added. The resulting mixture was refluxed under argon for one hour after which the solvent was evaporated. The residue which formed was diluted with a mixture of methanol/water (6:4) and extracted four times with hexane. The combined hexane solutions were washed once with methanol/water (6:4) and twice with pure water, dried with sodium sulfate, filtered and evaporated. The resulting crude product was purified by column chromatography on silica gel and elution with hexane/5% ether. Recrystallization of the all trans-3,7-dimethyl-9-(3,4,5-trimethyl-2-thienyl)-2,4,6,8-nonatetraenoic acid ethyl ester so obtained from hexane/1% ethyl acetate gave yellow crystals, m.p. 96°-98° C.

reactant | (3,4,5-trimethyl-2-thenyl)triphenyl phosphonium bromide | [Br-].CC1=C(SC(=C1C)C)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 3-methyl-7-formyl-octa-2,4,6-trienoic acid ethyl ester | C(C)OC(C=C(C=CC=C(C)C=O)C)=O | C12H16O3
solvent | butylene oxide | 80 ml | C1CCCO1 | C4H8O
solvent | methanol water | CO.O
product | trans-3,7-dimethyl-9-(3,4,5-trimethyl-2-thienyl)-2,4,6,8-nonatetraenoic acid ethyl ester | C(C)OC(C=C(\C=C\C=C(C=CC=1SC(=C(C1C)C)C)C)C)=O | C20H26O2S
